US08389524B2
(1R)-1-({4-[(6,7-Dihydro-5H-cyclopenta[c]pyridin-3-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione hydrochloride
A suspension of (1R)-1-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione dihydrochloride (82 mg, 0.220 mmol) (for a preparation see Example 5(j)) in chloroform (5 ml) and methanol (0.2 ml) at rt under argon was treated with triethylamine (92 μl, 0.659 mmol) and stirred at rt for 0.25 h. The solution was then treated with 6,7-dihydro-5H-cyclopenta[c]pyridine-3-carbaldehyde (32.3 mg, 0.220 mmol) and stirred for a further 0.5 h. The solution was then treated with NaBH(OAc)3 (140 mg, 0.659 mmol) and stirred at rt for 0.5 h. The reaction was then treated with saturated aqueous NaHCO3 (100 ml) and extracted with 20% methanol/DCM (3×200 ml). The combined organic extracts were dried (MgSO4), filtered, evaporated and chromatographed (0-20% methanol/DCM) to give the free base of the title compound as a light brown solid (39 mg, 41%).

reactant | (1R)-1-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione dihydrochloride | 0.220 mmol, 82 mg | Cl.Cl.NC1CCN(CC1)C[C@@H]1CN2C(C=CC=3C=CC(N1C23)=O)=O
reactant | triethylamine | 0.659 mmol, 92 μl | C(C)N(CC)CC | C6H15N
reactant | 6,7-dihydro-5H-cyclopenta[c]pyridine-3-carbaldehyde | 0.220 mmol, 32.3 mg | C1=NC(=CC2=C1CCC2)C=O | C9H9NO
reactant | NaBH(OAc)3 | 0.659 mmol, 140 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 100 ml | C(=O)(O)[O-].[Na+]
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 0.2 ml | CO | CH4O
product | (1R)-1-({4-[(6,7-Dihydro-5H-cyclopenta[c]pyridin-3-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione hydrochloride | 39 mg, 41% | Cl.C1=NC(=CC2=C1CCC2)CNC2CCN(CC2)C[C@@H]2CN1C(C=CC=3C=CC(N2C13)=O)=O | InChI=1S/C25H29N5O2.ClH/c31-23-6-4-17-5-7-24(32)30-22(16-29(23)25(17)30)15-28-10-8-20(9-11-28)27-14-21-12-18-2-1-3-19(18)13-26-21;/h4-7,12-13,20,22,27H,1-3,8-11,14-16H2;1H/t22-;/m1./s1
